US04722929
(b) 2-(2-Dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine
A suspension of 1.4 gm of 3-[(2-dimethylamino-4-nitro-benzoyl)-amino]-2-amino-6-methoxy-pyridine in 40 ml of phosphorus oxychloride is refluxed for three hours. The phosphorus oxychloride is evaporated off by about two-thirds, and the residue is poured into water. The solution obtained is made ammoniacal, and the product precipitated is purified over a silica gel column [eluant: methylene chloride/ethanol (100:0 to 100:0.5)].

reactant | 3-[(2-dimethylamino-4-nitro-benzoyl)-amino]-2-amino-6-methoxy-pyridine | 1.4 gm | CN(C1=C(C(=O)NC=2C(=NC(=CC2)OC)N)C=CC(=C1)[N+](=O)[O-])C | C15H17N5O4
solvent | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2-Dimethylamino-4-nitro-phenyl)-5-methoxy-imidazo[4,5-b]pyridine | CN(C1=C(C=CC(=C1)[N+](=O)[O-])C=1NC=2C(=NC(=CC2)OC)N1)C | C15H15N5O3
